US08623889B2
Step 3: 7-chloro-2,6-naphthyridine-3-carboxylic acid
Potassium permanganate (280 mg, 1.8 mmol) was added in small portions to a slurry of (7-chloro-2,6-naphthyridin-3-yl)methanol (105 mg, 0.54 mmol) in water (2 mL). The mixture was stirred for 30 minutes at room temperature, and was then diluted with sodium hydroxide (1.0M solution in water, 5 mL) and filtered over Celite. The filtrate was acidified to a pH of ˜3 via addition of citric acid, and the resulting precipitate was collected by vacuum filtration and washed with water (2×5 mL) to afford the title compound as a white solid (55 mg, 50%). 1H NMR (400 MHz, DMSO) δ 13.40 (s, 1H), 9.54 (s, 1H), 9.51 (s, 1H), 8.82 (s, 1H), 8.36 (s, 1H).

reactant | Potassium permanganate | 1.8 mmol, 280 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | (7-chloro-2,6-naphthyridin-3-yl)methanol | 0.54 mmol, 105 mg | ClC1=NC=C2C=C(N=CC2=C1)CO | C9H7ClN2O
solvent | water | 2 mL | O | H2O
solvent | sodium hydroxide | 1.0M, 5 mL | [OH-].[Na+]
product | 7-chloro-2,6-naphthyridine-3-carboxylic acid | 55 mg, 50% | ClC1=NC=C2C=C(N=CC2=C1)C(=O)O | C9H5ClN2O2
